Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with no significant PMH presenting with 4days of abdominal
pain. Patient reports symptoms began acutely as a 'pulled 
muscle'
on the right side with vague intermittent bilateral lower
quadrant pain. She has also had non-bloody diarrhea for the past
___ days after ingesting dumpling soup, although she states her
friend ingested this without symptoms.

She has had subjective fevers today. Denies nausea or vomiting
but has some loss in appetite. Denies hematochezia or melena.
Denies prior episodes. Denies personal or family hx of IBD.

 
Past Medical History:
none
 
Social History:
___
Family History:
Fam Hx:NC, no hx of IBD

 
Physical Exam:
T 98 P 75 BP 126/64  RR 14  Sat 100%
GEN: NAD, comfortable
CV: RRR
PULM: CTAB
ABD: Soft, nontender (only mild ache), nondistended, no rebound 
or guarding. Tolerating regular diet. 
EXT: no edema
 
Pertinent Results:
Admission 
___ 
WBC-7.5 RBC-3.66* Hgb-11.3* Hct-33.0* MCV-90 MCH-30.9 MCHC-34.2 
RDW-12.7 Plt ___
Glucose-90 UreaN-4* Creat-0.6 Na-139 K-3.6 Cl-106 HCO3-23 
AnGap-14

Discharge
___ 
WBC-6.1 RBC-3.57* Hgb-10.8* Hct-31.1* MCV-87 MCH-30.2 MCHC-34.7 
RDW-12.9 Plt ___
 
Brief Hospital Course:
Ms. ___ was admitted to the ___ service with abdominal pain 
attributed to colitis.  CT scan also showed early/mild acute 
appendicitis but it did not correlate with clinical exam and we 
elected for conservative management. She was made NPO, we 
started IVF and prophylactic IV Cipro/Flagyl, sent the stool for 
parasite, which was negative. She was also complaining of 
headache and neck pain with flexion. Neurology was consulted. 
MRV was doen to rule out a venous sinus thrombosis, it was 
negative.  Her abdominal pain gradually improved and diet was 
slowly advanced as tolerated. She had a reaction to Cipro (rash) 
so we switched her to oral Augmentin. She remained afebrile and 
hemodynamicallys table during the entire hospitalization.  On 
day of discharge, she was tolerating a regular diet, abdomen was 
soft and nontender. 
She was discharged with a course Augmentin 
 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/headache 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0
2. Amoxicillin-Clavulanic Acid ___ mg PO Q8H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth every eight (8) hours Disp #*30 Tablet Refills:*0
3. Ibuprofen 400 mg PO Q8H:PRN pain/headache 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis involving the splenic flexure
Early or mild acute appendicitis. No evidence of perforation. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with abdominal pain and were found to 
have colitis and early or mild acute appendicitis with no 
evidence of perforation. You also had headaches, and neurology 
was consulted for this. Your head CT scan and MRI were negative. 
You were treated with bowel rest, IV fluids, and antibiotics. 
Your stool studies have been negative for any infectious 
organism, so this is likely viral in etiology. You diet was 
slowly advanced and you are now tolerating a regular diet. You 
are ready to be discharged home to continue your recovery. 
Please note the following discharge instructions. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 
 
Followup Instructions:
___